2148-11-22 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever/chills with hypotension, tachycardia
   24 Hour Events:
   - admitted to ICU for hypotension to 80s from 140s, fever to 103,
   tachycardia
   - received 1 L LR bolus for SBPs to 80s, responded well
   - u/o 150-300 cc/hr, CVP 8-12 overnight
   - subjectively c/o fevers, no other symptoms
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Vancomycin - [**2148-11-21**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-11-22**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-11-21**] 11:32 PM
   Other medications:
   Changes to medical and family history:
   Review of records from outpatient clinics shows recent Hep C ab +; from
   [**10-29**] CD4 673, WBC 8, viral load <75, Cr 1.44.  Received pneumovax
   [**2144-2-25**], TD booster [**2144-2-25**], flu shot [**2148-11-5**].
   Review of systems is unchanged from admission except as noted below
   Review of systems:  c/o fevers, denies any other symptoms including
   CP/pressure, SOB, pleuritic chest pain, cough, abdominal pain, nausea,
   vomiting, diarrhea, myalgias
   Flowsheet Data as of  [**2148-11-22**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100.1
   HR: 84 (84 - 108) bpm
   BP: 128/51(70) {94/32(46) - 131/63(75)} mmHg
   RR: 28 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (6 - 12)mmHg
   Total In:
                                                                  7,780 mL
                                                                    160 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,660 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  1,040 mL
   Urine:
                                                                  1,445 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,935 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   VBG: pH 7.36
   Physical Examination
   General: Alert, oriented, no acute distress.  Interactive and
   pleasantly conversant.
   HEENT: Sclera anicteric, MMM, oropharynx clear without thrush
   Neck: supple, JVP not appreciated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   CV: tachycardic, regular, normal S1 + S2, grade 2/6 systolic murmur at
   LUSB, no detectable radiation, no rubs or gallops
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly.  well-healed
   laparotomy scar noted
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   383 K/uL
   11.2 g/dL
   125 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   34.6 %
   28.1 K/uL
        [image002.jpg]
                             [**2148-11-21**]  05:22 PM
   WBC
   28.1
   Hct
   34.6
   Plt
   383
   Cr
   1.4
   Glucose
   125
   Other labs: PT / PTT / INR:12.1/26.5/1.0, Lactic Acid:1.8 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   57 year old asplenic male with HIV (per pt. most recent CD4=600), with
   recent strep viridans sepsis ([**Month (only) 572**]/[**2148-6-14**]) presents with chills,
   lightheadedness, and elevated wbc who is admitted to the ICU for
   hypotension and tachycardia with fever.
   .
   # Septic Shock: Fever, tachycardia and hypotension (has responded to
   fluids).  Patient asplenic so encapsulated organisms likely, and with
   consolidation on CXR, strep pnemo is most likely organism.  Patient
   also has history of MRSA swab positive, which makes MRSA possible.
   Recent sexual exposures were protected, but could consider GC as
   another possible source.
   -Vanco/Zosyn for now.  Can consider narrowing to ceftriaxone +
   azithromycin if cultures remain negative after 48 hours.
   -f/u cultures (blood, urine, stool).  Will send sputum for culture if
   develops a productive cough
   -allow pt to take POs, will follow u/o.  Goal U/O > 50 cc/hr.  will
   bolus LR.
   -follow fever curve on antibiotics
   -d/c central line and foley cath given well-appearing
   #Acute Renal Failure:  Cr up to 1.3 from baseline 0.9, although recent
   outpatient Cr 1.44.  Likely pre-renal component.
   -will follow u/o and trend Cr after fluid rescuscitation.
   -check urine lytes
   .
   #HIV:  last CD4 > 600 per pt, viral load undetectable.  On Atripla
   -confirm HIV care and last CD4/viral load with PCP tomorrow
   [**Name9 (PRE) 175**] home efavirenz--a NNRTI, emtricitabine--a nucleoside RTI, and
   tenofavir--a nucleoside RTI, 1 tab PO daily.
   #Hep C:  recent testing [**10-23**] shows Ab +.   ? viral load.
   - touch base with PCP re whether or not patient is aware.  [**First Name8 (NamePattern2) 861**]
   [**Last Name (NamePattern1) 10614**], [**Telephone/Fax (1) 10615**]
   #Hyperlipidemia/CAD risk factors:
   - continue home atorvastatin
   - continue home ASA
   - hold lisinopril in context of concern for hypotension.  Can restart
   if BP holds well.
   #Hep B:  diagnosed [**2117**].  "completed treatment" at that time.
   #FEN: non-anion gap acidosis (pH 7.36), likely secondary to NS
   administration (Cl 111), regular diet.
   -No NS for IVF, will use LR if needed
   -full diabetic diet for now given low likelihood of intubation
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  insulin SS
   Lines:
   20 Gauge - [**2148-11-21**] 04:45 PM
   Presep Catheter - [**2148-11-21**] 04:46 PM
   18 Gauge - [**2148-11-21**] 04:47 PM
   Prophylaxis:
   DVT: heparin 5000 units sub-cutaneous
   Stress ulcer:  none at this time, considered low risk for now
   VAP:
   Comments:
   Communication:  patient
   Comments: partner is HCP
   [**Name (NI) 36**] status: Full code
   Disposition:  call out to floor
   11:41

2148-11-22 11:05:00 Physician Attending Progress Note
Chief Complaint: Fever, hypotension, pneumonia, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tmax 102.8.  CVP 13 this AM.
   Patient give fluids during the night for episode of hypotension to the
   80s. Good response. Urine output excellent.
   24 Hour Events:
 PRESEP CATHETER - START [**2148-11-21**] 04:46 PM
 FEVER - 102.8
F - [**2148-11-21**] 08:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-11-22**] 04:30 AM
   Vancomycin - [**2148-11-22**] 10:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-11-21**] 11:32 PM
   Other medications:
   ASA, lipitor, insulin, HAART
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-22**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.6
C (99.7
   HR: 83 (77 - 108) bpm
   BP: 130/63(77) {94/32(46) - 140/65(80)} mmHg
   RR: 22 (16 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  7,900 mL
                                                                    947 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,660 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  1,890 mL
   Urine:
                                                                  1,445 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,055 mL
                                                                   -943 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   317 K/uL
   109 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   31.2 %
   19.1 K/uL
        [image002.jpg]
                             [**2148-11-21**]  05:22 PM
                             [**2148-11-22**]  05:51 AM
   WBC
   28.1
   19.1
   Hct
   34.6
   31.2
   Plt
   383
   317
   Cr
   1.4
   1.4
   Glucose
   125
   109
   Other labs: PT / PTT / INR:12.1/26.5/1.0, Lactic Acid:1.8 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   PNEUMONIA
   HYPOTENSION
   ACUTE RENAL FAILURE
   ========================
   WBC down this morning; hemodynamics improved with good urine output
   althought creat still elevated today. Oxygen saturation excellent
   without supplemental oxygen. Continue present antibiotics. [**Month (only) 51**] be
   starting to autodiurese; if UO drops below 50 cc/hr.
   Source of infection re: bacteria still unclear. Cultures pending. Would
   wait another 24 hours for cultures; if negative would narrow antibiotic
   coverage for community acquired pneumonia.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-11-21**] 04:45 PM
   Presep Catheter - [**2148-11-21**] 04:46 PM
   18 Gauge - [**2148-11-21**] 04:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2148-11-23 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - STOP [**2148-11-22**] 04:03 PM
   - new erythema on LLE, likely cellulitis but currently being covered
   with vanc/zosyn so outlined and will continue to monitor
   [**Hospital1 **] records: CD4: 673 viral load: < 75
   Allergies:
   Erythromycin Base
   Hives;
   Biaxin (Oral) (Clarithromycin)
   Unknown; Hives;
   Ciprofloxacin
   gum pain;
   Last dose of Antibiotics:
   Vancomycin - [**2148-11-22**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-11-23**] 04:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-11-23**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.1
   HR: 80 (72 - 101) bpm
   BP: 120/62(76) {98/48(57) - 145/73(91)} mmHg
   RR: 26 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  2,180 mL
                                                                    177 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                  1,540 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                  1,425 mL
   Urine:
                                                                  3,570 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,390 mL
                                                                 -1,248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Alert, oriented, no distress.  Pleasant, conversational
   HEENT: Sclera anicteric, MMM, oropharynx clear without thrush
   Neck: supple, JVP not appreciated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   CV: regular, normal S1 + S2, grade 2/6 systolic murmur at LUSB
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly.  well-healed
   laparotomy scar
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   279 K/uL
   11.3 g/dL
   116 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.8 mEq/L
   20 mg/dL
   109 mEq/L
   141 mEq/L
   34.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2148-11-21**]  05:22 PM
                             [**2148-11-22**]  05:51 AM
                            [**2148-11-23**]  05:24 AM
   WBC
   28.1
   19.1
   15.0
   Hct
   34.6
   31.2
   34.6
   Plt
   383
   317
   279
   Cr
   1.4
   1.4
   1.4
   Glucose
   125
   109
   116
   Other labs: PT / PTT / INR:12.1/25.7/1.0, ALT / AST:54/37, Alk Phos / T
   Bili:69/0.3, Differential-Neuts:76.3 %, Lymph:16.0 %, Mono:4.0 %,
   Eos:3.4 %, Lactic Acid:1.8 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   57 year old asplenic male with HIV (per pt. most recent CD4=600), with
   recent strep viridans sepsis ([**Month (only) 572**]/[**2148-6-14**]) presents with chills,
   lightheadedness, and elevated wbc who is admitted to the ICU for
   hypotension and tachycardia with fever.
   .
   # Sepsis:  Pt presented w fever, tachycardia and hypotension, which has
   responded to fluids.   Patient asplenic so there is concern for
   encapsulated organisms.  Pneumonia is not convincing on CXR; pt has not
   had productive cough or respiratory symptoms.   Left leg cellulites
   started yesterday morning, worsened overnight, even after starting
   vancomycin; because fevers and chills started prior to cellulitis
   appearance, it may or may not be the source of his initial hypotension
   and fevers.  Patient also has history of MRSA swab positive, which
   makes MRSA possible.   GC swabs negative.
   - Continue Vanco/Zosyn for now.
   - follow fever curve on antibiotics
   #Acute Renal Failure:  Cr 1.4 , though baseline in past appeared to be
   0.9, although recent outpatient Cr 1.44.  Urine output 150+ cc/hr.
   FeNa 2.1%, FeUrea 54% so patient likely has intrarenal chronic renal
   insufficiency
   -will follow u/o and trend Cr
   .
   #HIV:  last CD4 > 600 per pt, viral load undetectable.  On Atripla
   - continue antiretrovirals: continue home efavirenz--a NNRTI,
   emtricitabine--a nucleoside RTI, and tenofavir--a nucleoside RTI, 1 tab
   PO daily.
   #Hep C:  recent testing [**10-23**] shows Ab +.    viral load unknown.
   - PCP:  [**First Name8 (NamePattern2) 861**] [**Last Name (NamePattern1) 10614**], [**Telephone/Fax (1) 10615**]
   #Hyperlipidemia/CAD risk factors:
   - continue home atorvastatin and ASA
   - hold lisinopril in context of concern for hypotension.  Can restart
   tomorrow if BP holds well
   #Hep B:  diagnosed [**2117**].  "completed treatment" at that time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-11-21**] 04:45 PM
   18 Gauge - [**2148-11-21**] 04:47 PM
   Prophylaxis:
   DVT: heparin 5000 units sub-cutaneous
   Stress ulcer:  none at this time, considered low risk for now
   VAP:
   Comments:
   Communication:  Comments:  partner is HCP
   [**Name (NI) 36**] status: Full code
   Disposition: call out to floor
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2148-11-23**] 14:53 ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his history with him, and
   was present for the key portion of the services provided.  I have
   reviewed Dr [**Last Name (STitle) 10501**]
s note and agree with her findings and plan of care.
   Mr [**Known lastname 3781**] feels better, his BP is improved, and his WBC and fever are
   trending down.  I am not convinced pneumonia is the cause of his
septic
 presentation, and while  his cellulitis would explain his
   initial presenting clinical sx, he actually didn
t have any cellulitic
   findins till yesterday. Hence his cellulitis appears to have occurred
   while on Vanco and Zosyn.  Bld cultures are neg and overall he is not
   toxic, but for now, until I am convinced his left shin cellulitis is
   improving I would continue both of these antibiotics, especially with
   his asplenic state and prior positive MRSA status.  He has already been
   called out to the floor and can be transferred once a bed is
   available.  If he doesn
t continue to improve I would have a low
   threshold for ID consultation.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   30 min spent in the direct care of this patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2148-11-23**] 15:00 ------